Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],5.217223538480001
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:14].[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13],1.19496689866
[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-5.117786171880001
[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-7.683081126799999
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])=[O:7].[H:8]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:7][H:8],-4.08434451436
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8][O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][O:9][H:10],-0.8116981443800001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3],8.41689802368
[H:1][C:2]#[C:3][C:6][O:5][C:4]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]1[O:5][C:6]([H:7])[C:8]1([H:9])[H:10],-0.0154492708907
[H:14].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.68937446145
[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([C:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11],4.78756235497
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.74402420275
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-7.44399847525
[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][O:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],1.98029113384
[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-8.2883629541
[H:1][C:2]#[C:3][C:4]([O:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]1[O:5][C:6]1=[C:7]([H:8])[H:9],0.6047852189899999
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],5.26924894775
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])[C:6]#[C:7]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.36185221545
[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-6.98262000523
[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-3.99227853332
[H:1][O:2][C:3]#[C:4]/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3][C:4]#[C:5],5.0533860484
[C:5]([H:6])#[C:7][O:8][H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-2.19350785218
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13],-3.88687519981
[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.53386351632
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],1.9272316054
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[O:12][H:13].[H:8],5.04842613691
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]#[C:8][H:9].[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:10])[H:11],6.299514275090001
[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:13]([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.73346661574
[H:1][C:2]#[C:3][O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-2.3494388179900003
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.91480937685
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3],2.9917724049900003
